2189-08-13 06:47:00 Physician Resident Progress Note
Chief Complaint: This is a 82 year old male with a history of
   hypertension and diastolic heart failure who was admitted to the
   surgical service with acute cholecystitis, s/p ERCP for gallstone
   pancreatitis followed later by lap CCY with a complicated hospital
   course requiring SICU transfer for anemia, and now with persistent
   dyspnea and new oxygen requirement.
   24 Hour Events:
   [**8-12**]
   Persistent hypertension after admission to MICU - started on
   hydralazine IV, then oral.  Sats remained in high 90's.
   At 1 am - he suddenly called for help, found to be in respiratory
   distress with audible expiratory wheezing, upper airway sounds.  Given
   nebulizer treatment, morphine.  ABG drawn.  Symptoms rapidly improved
   with treatment.
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2189-8-11**] 09:06 AM
   Ciprofloxacin - [**2189-8-11**] 08:30 PM
   Piperacillin - [**2189-8-12**] 05:54 PM
   Vancomycin - [**2189-8-12**] 08:02 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2189-8-12**] 06:41 PM
   Famotidine (Pepcid) - [**2189-8-12**] 07:45 PM
   Hydralazine - [**2189-8-13**] 12:20 AM
   Morphine Sulfate - [**2189-8-13**] 03:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-8-13**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.5
   HR: 82 (54 - 101) bpm
   BP: 167/63(89) {123/53(70) - 188/128(139)} mmHg
   RR: 18 (13 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                    411 mL
                                                                     82 mL
   PO:
             TF:
   IVF:
                                                                    411 mL
                                                                     82 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                  1,020 mL
   Urine:
                                                                  1,500 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,089 mL
                                                                   -938 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.49/32/138/21/2
   Physical Examination
   Cardiovascular: General: Sleepy but arousable, curled up in bed,
   states, "I'm cold", drawing blankets up around him.
   HEENT: dry mucous membranes, oropharynx clear
   Neck: Supple
   Lungs: Air movement adequate, though with somewhat bronchial breath
   sounds, scattered end-expiratory wheezes
   CV: RRR, normal S1/S2, 2/6 systolic murmur
   Abdomen: soft, non-tender, somewhat distended, tympanic
   Ext: Warm, well perfused, 2+ radial and DP pulses, 1+ lower extremity
   edema to shins
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   556 K/uL
   10.3 g/dL
   120 mg/dL
   2.1 mg/dL
   21 mEq/L
   3.2 mEq/L
   27 mg/dL
   104 mEq/L
   137 mEq/L
   32.6 %
   21.8 K/uL
        [image002.jpg]
                             [**2189-8-10**]  11:05 PM
                             [**2189-8-11**]  02:14 AM
                             [**2189-8-11**]  05:49 AM
                             [**2189-8-11**]  10:39 AM
                             [**2189-8-11**]  01:59 PM
                             [**2189-8-11**]  04:37 PM
                             [**2189-8-12**]  03:36 PM
                             [**2189-8-12**]  09:41 PM
                             [**2189-8-13**]  01:13 AM
                             [**2189-8-13**]  02:24 AM
   WBC
   23.4
   24.7
   23.1
   21.8
   Hct
   31.6
   31.7
   33.1
   33.2
   32.8
   34.5
   32.6
   Plt
   [**Telephone/Fax (3) 8519**]56
   Cr
   2.0
   1.9
   2.1
   2.1
   TropT
   0.04
   0.04
   TCO2
   21
   16
   25
   Glucose
   113
   91
   99
   120
   Other labs: PT / PTT / INR:12.5/26.7/1.1, CK / CKMB /
   Troponin-T:272/5/0.04, ALT / AST:48/95, Alk Phos / T Bili:98/1.4,
   Amylase / Lipase:/68, Differential-Neuts:90.3 %, Lymph:7.3 %, Mono:1.5
   %, Eos:0.7 %, Fibrinogen:488 mg/dL, Lactic Acid:1.8 mmol/L, LDH:779
   IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Imaging: [**2189-8-13**]
   [**2189-8-12**]
   INDICATION: 82-year-old man with new acidemia. Evaluation for
   obstruction,
   free air or intra-abdominal process.
   COMPARISON: CT of the abdomen from [**2189-8-5**].
   FINDINGS:
   Air and stool seen throughout the small and large bowel with no obvious
   bowel
   distention seen. The domes of the diaphragm are not seen so evaluation
   for
   free air cannot be made on this supine radiograph. Osseous structures
   are
   unremarkable.
   X-ray abdomen
   No obstruction seen. For evaluation of free air a decubitus film is
   suggested.
   [**2189-8-12**]: AP chest compared to [**8-9**]. Respiratory motion obscures
   anatomic detail
   in the lower lungs, but there appears to be increasing right basal
   consolidation and a stable left lower lobe consolidation due either to
   pneumonia or atelectasis, with respect to [**8-10**] and 25. Upper lungs
   are
   clear. Heart is not enlarged. Pleural effusion is small if any. No
   pneumothorax.
   Microbiology: Urine Cx from 25th no growth final .
   Blood Cx from 17th no growth.
   3 blood Cx pending from 26th.
   Being MRSA screened.
   Assessment and Plan
 PULMONARY EDEMA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HYPERGLYCEMIA
   ASSESSMENT:
   This is a 82 year old male with a history of hypertension and diastolic
   heart failure who was admitted to the surgical service with acute
   cholecystitis, s/p ERCP for gallstone pancreatitis followed later by
   lap CCY with a complicated hospital course requiring SICU transfer for
   anemia, and now with persistent dyspnea and new oxygen requirement.
   .
   DYSPNEA/TACHYPNEA
   ABG obtained shortly prior to arrival in MICU suggests that tachypnea
   on the floor was most likely largely compensating for an underlying
   metabolic acidosis, of unclear cause. However, also having some
   expiratory wheezing as well. Some increased interstitial pattern
   consistent with early pulmonary edema on his cxr. No known hx of COPD
   though was a long-time smoker. Labs not c/w CO2 retention. Obstructive
   sounds on exam could be associated w "cardiac wheeze" secondary to pulm
   edema. PE is a consideration given acute onset but quick resolution
   argues against this. Prior negative LENIs. Acute heart failure makes
   cardiac ischemia a consideration. S/p episode on the floor, he
   complains of being "cold" and as above, acidosis appears to underlie
   his tachypnea; suggestive of underlying infection. X-ray suggests
   possibility of pneumonia, would be HAP if so.
   - cycle cardiac enzymes
   - nebs for symptomatic relief
   - vancomycin and zosyn for infection/?pneumonia
   - abdominal labs show no acute change thus far; if new abd syndromes,
   low threshold for CT
   - repeat echocardiogram to eval RV function
   - diuresing currently; afterload reduction for BP; will hold off on
   restarting home ACEi for now to allow for more aggressive diuresis
   without renal insult, but likely would restart this soon once pt stably
   improved
   - along these lines, hydral for BP overnight, IV-->oral
   - holding verapamil for now given renal failure though may be
   advantageous in setting of diastolic failure and Cr likely his outpt
   baseline, will consider restarting
   .
   LEUKOCYTOSIS
   Concern for pneumonia; given recent surgical history, concern for GI
   bacteria.
   - cover with vanc/zosyn as above
   - f/u cultures
   - follow wbc/diff
   - low threshold for CT abdomen, as above
   .
   HYPOTHYROIDISM
   Continue home levothyroxine
   .
   GLAUCOMA
   Continue home eye drops
   .
   GOUT
   Holding allopurinol for now; restart if Cr remains stable, vs. hold
   until outpt f/u
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-8-12**] 10:02 PM
   18 Gauge - [**2189-8-13**] 01:13 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: pt waxing and [**Doctor Last Name 226**] overnight; however,
   social work note says difficult relationship w son; will hold off
   sorting this out overnight and hope for better mental status in AM
   Code status: Full code
   Disposition: ICU for now, transfer to floor when stable BP and no more
   acute hypoxic episodes
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2189-8-12**] 10:02 PM
   18 Gauge - [**2189-8-13**] 01:13 AM
   Prophylaxis:
   DVT:
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments: waxing and [**Doctor Last Name 226**] overnight; however, social
   work note says difficult relationship w son; will hold off sorting this
   out overnight and hope for better mental status in AM
   Code status: Full code
   Disposition:ICU for now, transfer to floor when stable BP and no more
   acute hypoxic episodes

2189-08-13 10:06:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Given Lasix to good effect
   Remained quite hypretensive- given Hydralazine
   Then Recurrent respiratory distress around 2 AM - given Nitro Morpphine
   and nebs eventually improved but remains HTN this AM
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2189-8-11**] 09:06 AM
   Ciprofloxacin - [**2189-8-11**] 08:30 PM
   Piperacillin - [**2189-8-12**] 05:54 PM
   Vancomycin - [**2189-8-12**] 08:02 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2189-8-12**] 06:41 PM
   Famotidine (Pepcid) - [**2189-8-12**] 07:45 PM
   Hydralazine - [**2189-8-13**] 12:20 AM
   Morphine Sulfate - [**2189-8-13**] 03:19 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-8-13**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.1
C (97
   HR: 87 (54 - 101) bpm
   BP: 178/85(108) {123/53(70) - 197/128(139)} mmHg
   RR: 25 (13 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                    411 mL
                                                                    116 mL
   PO:
             TF:
   IVF:
                                                                    411 mL
                                                                    116 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                  1,235 mL
   Urine:
                                                                  1,500 mL
                                                                  1,235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,089 mL
                                                                 -1,119 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.49/32/138/21/2
   Physical Examination
   Gen: lying in bed mild resp distress
   CV: RR 2/6 sys murmur
   Chest: faint end exp wheezes, fair air movement
   Abd : distended soft +BS, no rebound
   Ext: 2+ edema
   Neuro: will answer some questions yes no but limited responses and
   often inconsistent
   Labs / Radiology
   10.3 g/dL
   556 K/uL
   120 mg/dL
   2.1 mg/dL
   21 mEq/L
   3.2 mEq/L
   27 mg/dL
   104 mEq/L
   137 mEq/L
   32.6 %
   21.8 K/uL
        [image002.jpg]
                             [**2189-8-10**]  11:05 PM
                             [**2189-8-11**]  02:14 AM
                             [**2189-8-11**]  05:49 AM
                             [**2189-8-11**]  10:39 AM
                             [**2189-8-11**]  01:59 PM
                             [**2189-8-11**]  04:37 PM
                             [**2189-8-12**]  03:36 PM
                             [**2189-8-12**]  09:41 PM
                             [**2189-8-13**]  01:13 AM
                             [**2189-8-13**]  02:24 AM
   WBC
   23.4
   24.7
   23.1
   21.8
   Hct
   31.6
   31.7
   33.1
   33.2
   32.8
   34.5
   32.6
   Plt
   [**Telephone/Fax (3) 8519**]56
   Cr
   2.0
   1.9
   2.1
   2.1
   TropT
   0.04
   0.04
   TCO2
   21
   16
   25
   Glucose
   113
   91
   99
   120
   Other labs: PT / PTT / INR:12.5/26.7/1.1, CK / CKMB /
   Troponin-T:272/5/0.04, ALT / AST:48/95, Alk Phos / T Bili:98/1.4,
   Amylase / Lipase:/68, Differential-Neuts:90.3 %, Lymph:7.3 %, Mono:1.5
   %, Eos:0.7 %, Fibrinogen:488 mg/dL, Lactic Acid:1.8 mmol/L, LDH:779
   IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 PULMONARY EDEMA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HYPERGLYCEMIA
   1.       Acute Resp Distress: Given his known diastolic dysfn and how
   rapidly he improved may well have been flash pulm edema, restart
   anti-HTN for rate pressure product control. Goal another 1 L negative.
   Repeat Echo to see if any new wall motion abnormalities or valvular
   disease. Can try BIPAP if recurs. COPD less likely given rapid on anf
   offset
 but shoudlget PFTs at some point given ++ tobacco. PE possible
   but again rapid on offset of dyspnea and hemodyanmically he is HTN and
   with low PaCo2 going against sig dead space
   2.       Leukocytosis: in post op setting CXR with ? early infiltrate
   Vanco Zosyn for HAP- but also consider abd imaging as he had evolving
   psuedocysts on last CT- could be sterile necrosis leads to fever and
   luekocytosis but will discuss imaging with surgical team. Pan culture.
   3.       ARF: stable CR- watch UOP
   4.       Altered Mental Status: unclear baseline, try to reach son.
   Social work already involved by surgical floor team for ? dementia but
   he was getting haldol and narcotics on floor so could be acute
   delirium.
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: post op diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-8-12**] 10:02 PM
   18 Gauge - [**2189-8-13**] 01:13 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: H2 blocker
   Communication:  with pt
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 31

2189-08-14 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2189-8-13**] 09:42 AM
   - Echo - Full read in OMR - Hypertrophic cardiomyopathy cannot be
   excluded. The degree of mitral regurgitation has increased slightly.
   The estimated pulmonary artery systolic pressures have increased.
   - Blood pressure down, d/c verapamil, started labetalol, hydralazine
   PRN
   - d/ced antibiotics
   - c/o to medicine - medicine team examined patient and was worried that
   he may trigger due to dementia. We told them that the problem that
   brought him into the micu has resolved. Patient will now be called out
   during the AM
   - Blood in urine, likely traumatic from foley, check hct
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2189-8-11**] 09:06 AM
   Ciprofloxacin - [**2189-8-11**] 08:30 PM
   Piperacillin - [**2189-8-12**] 05:54 PM
   Vancomycin - [**2189-8-12**] 08:02 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-8-14**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.5
   HR: 64 (53 - 98) bpm
   BP: 139/61(82) {112/12(53) - 197/111(118)} mmHg
   RR: 17 (13 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
                  Total In:
                                                                    346 mL
                  PO:
                                                                    125 mL
                  TF:
   IVF:
                                                                    221 mL
   Blood products:
   Total out:
                                                                  1,745 mL
                                                                    110 mL
   Urine:
                                                                  1,745 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,399 mL
                                                                   -110 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   556 K/uL
   10.3 g/dL
   120 mg/dL
   2.1 mg/dL
   21 mEq/L
   3.2 mEq/L
   27 mg/dL
   104 mEq/L
   137 mEq/L
   33.3 %
   21.8 K/uL
        [image002.jpg]
                             [**2189-8-11**]  02:14 AM
                             [**2189-8-11**]  05:49 AM
                             [**2189-8-11**]  10:39 AM
                             [**2189-8-11**]  01:59 PM
                             [**2189-8-11**]  04:37 PM
                             [**2189-8-12**]  03:36 PM
                             [**2189-8-12**]  09:41 PM
                             [**2189-8-13**]  01:13 AM
                             [**2189-8-13**]  02:24 AM
                             [**2189-8-13**]  10:35 PM
   WBC
   23.4
   24.7
   23.1
   21.8
   Hct
   31.7
   33.1
   33.2
   32.8
   34.5
   32.6
   33.3
   Plt
   [**Telephone/Fax (3) 8519**]56
   Cr
   2.0
   1.9
   2.1
   2.1
   TropT
   0.04
   0.04
   TCO2
   21
   16
   25
   Glucose
   113
   91
   99
   120
   Other labs: PT / PTT / INR:12.5/26.7/1.1, CK / CKMB /
   Troponin-T:272/5/0.04, ALT / AST:48/95, Alk Phos / T Bili:98/1.4,
   Amylase / Lipase:/68, Differential-Neuts:90.3 %, Lymph:7.3 %, Mono:1.5
   %, Eos:0.7 %, Fibrinogen:488 mg/dL, Lactic Acid:1.8 mmol/L, LDH:779
   IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 PULMONARY EDEMA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HYPERGLYCEMIA
   This is a 82 year old male with a history of hypertension and diastolic
   heart failure who was admitted to the surgical service with acute
   cholecystitis, s/p ERCP for gallstone pancreatitis followed later by
   lap CCY with a complicated hospital course requiring SICU transfer for
   anemia, and now with persistent dyspnea and new oxygen requirement.
   .
   DYSPNEA/TACHYPNEA
   Pt becomes acutely dyspneic on sitting up although does not drop 02
   sats. Rapid onset and resolution of episodes suggests cardiogenic over
   reactive airway disease. Smoking history concern for COPD however CXR
   not remarkable, and COPD expect hypercarbia- does not have on gas.
   Prior gases  suggested compensating for metabolic acidosis, now
   7.49/32/138/22  likely hyperventilating and blowing off CO2.Rapid
   on/off of wheeze suggests cardiac wheeze from pulmonary edema although
   CXR not striking for volume overload
with some increased interstitial
   pattern consistent with early, possibly diastolic CHF.
   -continue diuresis with lasix, goal output 1-2L
   -check pm lytes.
   -Wean 02 as tolerated.
   .
   Leukocytosis:
   - White count trending down. Did bump y/d evening in absence of fever,
   ? PNA vs abdominal process in setting recent surgery: /KUB unrevealing
   unclear whether PNA with consolidaton obscured by pleural effusions.
   Blood cultured, continue Vanc/Zosyn day 2 for empiric coverage while
   cultures pending.
   - abdominal labs show no acute change thus far; if new abd syndromes,
   low threshold for CT
   - repeat echocardiogram to eval RV function.
   .
   - diuresing currently; afterload reduction for BP, restart home dose
   lisinopril 40 and labetolol.  Consider - along these lines, hydral for
   BP overnight, IV-->oral
   - holding verapamil for now given renal failure though may be
   advantageous in setting of diastolic failure and Cr likely his outpt
   baseline, will consider restarting
   LEUKOCYTOSIS
   Concern for pneumonia; given recent surgical history, concern for GI
   bacteria.
   - cover with vanc/zosyn as above
   - f/u cultures
   - follow wbc/diff
   - low threshold for CT abdomen, as above
   .
   HYPOTHYROIDISM
   Continue home levothyroxine
   .
   GLAUCOMA
   Continue home eye drops
   .
   GOUT
   Holding allopurinol for now; restart if Cr remains stable, vs. hold
   until outpt f/u
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-8-12**] 10:02 PM
   18 Gauge - [**2189-8-13**] 01:13 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Son calls in for updates, is health care proxy. Unclear
   dynamic of relationship.
   Code status: Full code
   Disposition: ICU for now, transfer to floor when stable BP and no more
   acute hypoxic episodes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-8-12**] 10:02 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2189-08-14 09:09:00 Physician Attending Progress Note
Chief Complaint: acute resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2189-8-13**] 09:42 AM - mildly worsenign Mr
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2189-8-11**] 08:30 PM
   Piperacillin - [**2189-8-12**] 05:54 PM
   Vancomycin - [**2189-8-12**] 08:02 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-8-14**] 09:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.5
   HR: 64 (53 - 98) bpm
   BP: 139/61(82) {112/12(53) - 189/111(118)} mmHg
   RR: 17 (13 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
                  Total In:
                                                                    346 mL
                  PO:
                                                                    125 mL
                  TF:
   IVF:
                                                                    221 mL
   Blood products:
   Total out:
                                                                  1,745 mL
                                                                    110 mL
   Urine:
                                                                  1,745 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,399 mL
                                                                   -110 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   Labs / Radiology
   9.9 g/dL
   501 K/uL
   88 mg/dL
   2.2 mg/dL
   25 mEq/L
   3.7 mEq/L
   30 mg/dL
   106 mEq/L
   142 mEq/L
   31.6 %
   15.3 K/uL
        [image002.jpg]
                             [**2189-8-11**]  05:49 AM
                             [**2189-8-11**]  10:39 AM
                             [**2189-8-11**]  01:59 PM
                             [**2189-8-11**]  04:37 PM
                             [**2189-8-12**]  03:36 PM
                             [**2189-8-12**]  09:41 PM
                             [**2189-8-13**]  01:13 AM
                             [**2189-8-13**]  02:24 AM
                             [**2189-8-13**]  10:35 PM
                             [**2189-8-14**]  07:07 AM
   WBC
   24.7
   23.1
   21.8
   15.3
   Hct
   33.1
   33.2
   32.8
   34.5
   32.6
   33.3
   31.6
   Plt
   437
   526
   556
   501
   Cr
   1.9
   2.1
   2.1
   2.2
   TropT
   0.04
   0.04
   TCO2
   21
   16
   25
   Glucose
   91
   99
   120
   88
   Other labs: PT / PTT / INR:14.3/27.2/1.2, CK / CKMB /
   Troponin-T:272/5/0.04, ALT / AST:48/95, Alk Phos / T Bili:98/1.4,
   Amylase / Lipase:/68, Differential-Neuts:90.3 %, Lymph:7.3 %, Mono:1.5
   %, Eos:0.7 %, Fibrinogen:488 mg/dL, Lactic Acid:1.8 mmol/L, LDH:268
   IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 PULMONARY EDEMA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HYPERGLYCEMIA
   1.       Acute Resp Distress: Given his known diastolic dysfn and how
   rapidly he improved may well have been flash pulm edema, restart
   anti-HTN for rate pressure product control. Goal another 1 L negative.
   Repeat Echo to see if any new wall motion abnormalities or valvular
   disease. Can try BIPAP if recurs. COPD less likely given rapid on anf
   offset
 but shoudlget PFTs at some point given ++ tobacco. PE possible
   but again rapid on offset of dyspnea and hemodyanmically he is HTN and
   with low PaCo2 going against sig dead space
   2.       Leukocytosis: in post op setting CXR with ? early infiltrate
   Vanco Zosyn for HAP- but also consider abd imaging as he had evolving
   psuedocysts on last CT- could be sterile necrosis leads to fever and
   luekocytosis but will discuss imaging with surgical team. Pan culture.
   3.       ARF: stable CR- watch UOP
   4.       Altered Mental Status: unclear baseline, try to reach son.
   Social work already involved by surgical floor team for ? dementia but
   he was getting haldol and narcotics on floor so could be acute
   delirium.
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-8-12**] 10:02 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   Communication:  with son
   [**Name (NI) 156**] status: Full code
   Disposition :Transfer to floor
   Total time spent: